US03953415
6.61 g. (6.85 mmoles) of Z-27-31-OtBu are dissolved in 150 ml. of methanol with gentle heating. The solution is cooled to room temperature; 1 g. of palladium-on-carbon is added to it, and gaseous hydrogen is bubbled into the mixture for 0.5 hours. The catalyst is removed by filtration, the filtrate is evaporated to dryness, the solid residue is triturated with n-hexane; and the mixture is filtered. 5.55 g. (97.6 %) of H-27-31-OtBu are obtained. M.p.: 138°-142° C, Rf2 = 0.15.

reactant | Z-Ala-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser(tBu)-OtBu | 6.85 mmoles | N([C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C48H77N5O15
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | H-Ala-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser(tBu)-OtBu | 97.6 % | N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](COC(C)(C)C)C(=O)OC(C)(C)C | C40H71N5O13
